US08334287B2
b) 4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-1H-pyridin-2-one
The title compound, white crystalline solid, MS: m/e=315.9 (M+H+), was prepared in accordance with the general method of example 1a from 2-chloro-4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-pyridine and KOH in tert-butanol.

reactant | 2-chloro-4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-pyridine | ClC1=NC=CC(=C1)N1C(=NC(=C1C)I)C | C10H9ClIN3
reactant | KOH | [OH-].[K+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-1H-pyridin-2-one | IC=1N=C(N(C1C)C1=CC(NC=C1)=O)C | C10H10IN3O
